US03997535
a. 3,4-Dihydro-6-methoxy-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester
A solution of 4-methoxy-o-phenylenediamine (9.5 g) and triethylamine (7 g) in ethanol (100 ml) was cooled to 0°-5° and stirred in an atmosphere of nitrogen. Diethyl bromomalonate (23.7 g) in ethaol (50 ml) was added during 30 minutes. The temperature of the mixture was maintained at 0°-5° for a further 6 hours and then allowed to rise to 20° and stirred at this temperature for 16 hours. The solid was filtered off, stirred with dilute hydrochloric acid (400 ml., 0.2N), filtered off, washed with water, dried and crystallised from a mixture of ethyl acetate and methanol, m.p. 229°.

reactant | 4-methoxy-o-phenylenediamine | 9.5 g | COC1=CC(=C(C=C1)N)N | C7H10N2O
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
reactant | Diethyl bromomalonate | 23.7 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,4-Dihydro-6-methoxy-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | COC=1C=C2NC(C(=NC2=CC1)C(=O)OCC)=O | C12H12N2O4
